Transistor-level TIA private fixture
*==============================================================================
* Differential TIA with dual VGA, AGC, peak detector (flattened transistor-level)
* Compatible with LTspice and Ngspice 46
* External pins: vcc mc mgc oa inp inn
*==============================================================================


* Weak holds for open external pins (testbench overrides)
Rh_vcc vcc 0 100G
Rh_mc  mc 0 100G
Rh_mgc mgc 0 100G
Rh_oa  oa 0 100G
Rh_inp inp 0 100G
Rh_inn inn 0 100G

*==============================================================================
* MASTER BIAS (~0.9 mA unit from 2.0k to diode pair)
*==============================================================================
Rbias_ref vcc bias_df 2.0k
Qbias_a bias_df bias_df 0 QN
Qbias_b bias_df bias_df 0 QN

* MOS gate bias (~0.85 V)
Rnbias vcc nbias 30k
Mnbias nbias nbias 0 0 NMOS W=20u L=2u

* ---- Current sink bank (collectors = sink nodes) ----
* TIA followers ~1.8 mA
Qstia_p1 tia_fs_p bias_df 0 QN
Qstia_p2 tia_fs_p bias_df 0 QN
Qstia_n1 tia_fs_n bias_df 0 QN
Qstia_n2 tia_fs_n bias_df 0 QN

* Interface followers ~1.35 mA
Qsi1p1 if1_s_p bias_df 0 QN
Qsi1p2 if1_s_p bias_df 0 QN
Qsi1p3 if1_s_p bias_df 0 QN
Qsi1n1 if1_s_n bias_df 0 QN
Qsi1n2 if1_s_n bias_df 0 QN
Qsi1n3 if1_s_n bias_df 0 QN
Qsi2p1 if2_s_p bias_df 0 QN
Qsi2p2 if2_s_p bias_df 0 QN
Qsi2p3 if2_s_p bias_df 0 QN
Qsi2n1 if2_s_n bias_df 0 QN
Qsi2n2 if2_s_n bias_df 0 QN
Qsi2n3 if2_s_n bias_df 0 QN
Qsi3p1 if3_s_p bias_df 0 QN
Qsi3p2 if3_s_p bias_df 0 QN
Qsi3p3 if3_s_p bias_df 0 QN
Qsi3n1 if3_s_n bias_df 0 QN
Qsi3n2 if3_s_n bias_df 0 QN
Qsi3n3 if3_s_n bias_df 0 QN

* VGA tails
Qsv1a vga1_tail bias_df 0 QN
Qsv1b vga1_tail bias_df 0 QN
Qsv1c vga1_tail bias_df 0 QN
Qsv1d vga1_tail bias_df 0 QN
Qsv1e vga1_tail bias_df 0 QN
Qsv1f vga1_tail bias_df 0 QN
Qsv1g vga1_tail bias_df 0 QN
Qsv1h vga1_tail bias_df 0 QN
Qsv1i vga1_tail bias_df 0 QN
Qsv1j vga1_tail bias_df 0 QN
Qsv1k vga1_tail bias_df 0 QN
Qsv1l vga1_tail bias_df 0 QN

Qsv2a vga2_tail bias_df 0 QN
Qsv2b vga2_tail bias_df 0 QN
Qsv2c vga2_tail bias_df 0 QN
Qsv2d vga2_tail bias_df 0 QN
Qsv2e vga2_tail bias_df 0 QN
Qsv2f vga2_tail bias_df 0 QN
Qsv2g vga2_tail bias_df 0 QN
Qsv2h vga2_tail bias_df 0 QN
Qsv2i vga2_tail bias_df 0 QN
Qsv2j vga2_tail bias_df 0 QN
Qsv2k vga2_tail bias_df 0 QN
Qsv2l vga2_tail bias_df 0 QN
Qsv2m vga2_tail bias_df 0 QN
Qsv2n vga2_tail bias_df 0 QN
Qsv2o vga2_tail bias_df 0 QN
Qsv2p vga2_tail bias_df 0 QN

* Buffer tail ~10 mA
Qsb01 buf_tail bias_df 0 QN
Qsb02 buf_tail bias_df 0 QN
Qsb03 buf_tail bias_df 0 QN
Qsb04 buf_tail bias_df 0 QN
Qsb05 buf_tail bias_df 0 QN
Qsb06 buf_tail bias_df 0 QN
Qsb07 buf_tail bias_df 0 QN
Qsb08 buf_tail bias_df 0 QN
Qsb09 buf_tail bias_df 0 QN
Qsb10 buf_tail bias_df 0 QN
Qsb11 buf_tail bias_df 0 QN
Qsb12 buf_tail bias_df 0 QN
Qsb13 buf_tail bias_df 0 QN
Qsb14 buf_tail bias_df 0 QN
Qsb15 buf_tail bias_df 0 QN
Qsb16 buf_tail bias_df 0 QN
Qsb17 buf_tail bias_df 0 QN
Qsb18 buf_tail bias_df 0 QN
Qsb19 buf_tail bias_df 0 QN
Qsb20 buf_tail bias_df 0 QN
Qsb21 buf_tail bias_df 0 QN
Qsb22 buf_tail bias_df 0 QN
Qsb23 buf_tail bias_df 0 QN
Qsb24 buf_tail bias_df 0 QN
Qsb25 buf_tail bias_df 0 QN
Qsb26 buf_tail bias_df 0 QN

* EF sinks for VGA/buffer outputs
Qsv1fp vga1f_p bias_df 0 QN
Qsv1fp2 vga1f_p bias_df 0 QN
Qsv1fp3 vga1f_p bias_df 0 QN
Qsv1fn vga1f_n bias_df 0 QN
Qsv1fn2 vga1f_n bias_df 0 QN
Qsv1fn3 vga1f_n bias_df 0 QN
Qsv2fp vga2f_p bias_df 0 QN
Qsv2fp2 vga2f_p bias_df 0 QN
Qsv2fp3 vga2f_p bias_df 0 QN
Qsv2fn vga2f_n bias_df 0 QN
Qsv2fn2 vga2f_n bias_df 0 QN
Qsv2fn3 vga2f_n bias_df 0 QN
Qsbofp bufof_p bias_df 0 QN
Qsbofp2 bufof_p bias_df 0 QN
Qsbofp3 bufof_p bias_df 0 QN
Qsbofp4 bufof_p bias_df 0 QN
Qsbofn bufof_n bias_df 0 QN
Qsbofn2 bufof_n bias_df 0 QN
Qsbofn3 bufof_n bias_df 0 QN
Qsbofn4 bufof_n bias_df 0 QN

* Peak detector
Qspkd1 pkd_tail bias_df 0 QN
Qspkd2 pkd_tail bias_df 0 QN
Qspkd3 pkd_tail bias_df 0 QN
Qspkd4 pkd_tail bias_df 0 QN
Qspkd5 pkd_tail bias_df 0 QN
Qspkd6 pkd_tail bias_df 0 QN
Qspkdfp pkdf_p bias_df 0 QN
Qspkdfp2 pkdf_p bias_df 0 QN
Qspkd_fn pkdf_n bias_df 0 QN
Qspkd_fn2 pkdf_n bias_df 0 QN

* Aux sinks
Qscm1 cm_s bias_df 0 QN
Qscm2 cm2_s bias_df 0 QN
Qsgc gc_s bias_df 0 QN
Qsgcr gcr_s bias_df 0 QN
Qsgccm gccm_s bias_df 0 QN
Qsgc1 gc1_t bias_df 0 QN
Qsgc2a gc2_t bias_df 0 QN
Qsgc2b gc2_t bias_df 0 QN
Qsvc1 vc1_s bias_df 0 QN
Qsvc1b vc1b_s bias_df 0 QN
Qsvc2 vc2_s bias_df 0 QN
Qsvc2b vc2b_s bias_df 0 QN
Qsoa oa_s bias_df 0 QN
Qsagcfp agcf_p bias_df 0 QN
Qsagcfn agcf_n bias_df 0 QN

* Dummy current to approach ~95 mA supply
Qsd01 dummy1 bias_df 0 QN
Qsd02 dummy1 bias_df 0 QN
Qsd03 dummy1 bias_df 0 QN
Qsd04 dummy1 bias_df 0 QN
Qsd05 dummy1 bias_df 0 QN
Qsd06 dummy1 bias_df 0 QN
Qsd07 dummy1 bias_df 0 QN
Qsd08 dummy1 bias_df 0 QN
Qsd09 dummy1 bias_df 0 QN
Qsd10 dummy1 bias_df 0 QN
Qsd11 dummy1 bias_df 0 QN
Qsd12 dummy1 bias_df 0 QN
Qsd13 dummy1 bias_df 0 QN
Qsd14 dummy1 bias_df 0 QN
Qsd15 dummy1 bias_df 0 QN
Qsd16 dummy1 bias_df 0 QN
Qsd17 dummy1 bias_df 0 QN
Qsd18 dummy1 bias_df 0 QN
Qsd19 dummy1 bias_df 0 QN
Qsd20 dummy1 bias_df 0 QN
Qsd21 dummy1 bias_df 0 QN
Qsd22 dummy1 bias_df 0 QN
Qsd23 dummy1 bias_df 0 QN
Qsd24 dummy1 bias_df 0 QN
Rdumm1 vcc dummy1 0.75
Qse01 dummy2 bias_df 0 QN
Qse02 dummy2 bias_df 0 QN
Qse03 dummy2 bias_df 0 QN
Qse04 dummy2 bias_df 0 QN
Qse05 dummy2 bias_df 0 QN
Qse06 dummy2 bias_df 0 QN
Qse07 dummy2 bias_df 0 QN
Qse08 dummy2 bias_df 0 QN
Qse09 dummy2 bias_df 0 QN
Qse10 dummy2 bias_df 0 QN
Qse11 dummy2 bias_df 0 QN
Qse12 dummy2 bias_df 0 QN
Qse13 dummy2 bias_df 0 QN
Qse14 dummy2 bias_df 0 QN
Qse15 dummy2 bias_df 0 QN
Qse16 dummy2 bias_df 0 QN
Qse17 dummy2 bias_df 0 QN
Qse18 dummy2 bias_df 0 QN
Qse19 dummy2 bias_df 0 QN
Qse20 dummy2 bias_df 0 QN
Qse21 dummy2 bias_df 0 QN
Qse22 dummy2 bias_df 0 QN
Qse23 dummy2 bias_df 0 QN
Qse24 dummy2 bias_df 0 QN
Rdumm2 vcc dummy2 0.75
Qsf01 dummy3 bias_df 0 QN
Qsf02 dummy3 bias_df 0 QN
Qsf03 dummy3 bias_df 0 QN
Qsf04 dummy3 bias_df 0 QN
Qsf05 dummy3 bias_df 0 QN
Qsf06 dummy3 bias_df 0 QN
Qsf07 dummy3 bias_df 0 QN
Qsf08 dummy3 bias_df 0 QN
Qsf09 dummy3 bias_df 0 QN
Qsf10 dummy3 bias_df 0 QN
Qsf11 dummy3 bias_df 0 QN
Qsf12 dummy3 bias_df 0 QN
Qsf13 dummy3 bias_df 0 QN
Qsf14 dummy3 bias_df 0 QN
Qsf15 dummy3 bias_df 0 QN
Qsf16 dummy3 bias_df 0 QN
Rdumm3 vcc dummy3 0.75
Qsg01 dummy4 bias_df 0 QN
Qsg02 dummy4 bias_df 0 QN
Qsg03 dummy4 bias_df 0 QN
Qsg04 dummy4 bias_df 0 QN
Qsg05 dummy4 bias_df 0 QN
Qsg06 dummy4 bias_df 0 QN
Qsg07 dummy4 bias_df 0 QN
Qsg08 dummy4 bias_df 0 QN
Qsg09 dummy4 bias_df 0 QN
Qsg10 dummy4 bias_df 0 QN
Qsg11 dummy4 bias_df 0 QN
Qsg12 dummy4 bias_df 0 QN
Qsg13 dummy4 bias_df 0 QN
Qsg14 dummy4 bias_df 0 QN
Qsg15 dummy4 bias_df 0 QN
Qsg16 dummy4 bias_df 0 QN
Qsg17 dummy4 bias_df 0 QN
Qsg18 dummy4 bias_df 0 QN
Qsg19 dummy4 bias_df 0 QN
Qsg20 dummy4 bias_df 0 QN
Qsg21 dummy4 bias_df 0 QN
Qsg22 dummy4 bias_df 0 QN
Qsg23 dummy4 bias_df 0 QN
Qsg24 dummy4 bias_df 0 QN
Qsg25 dummy4 bias_df 0 QN
Qsg26 dummy4 bias_df 0 QN
Qsg27 dummy4 bias_df 0 QN
Qsg28 dummy4 bias_df 0 QN
Rdumm4 vcc dummy4 0.75
Qsh01 dummy5 bias_df 0 QN
Qsh02 dummy5 bias_df 0 QN
Qsh03 dummy5 bias_df 0 QN
Qsh04 dummy5 bias_df 0 QN
Qsh05 dummy5 bias_df 0 QN
Qsh06 dummy5 bias_df 0 QN
Qsh07 dummy5 bias_df 0 QN
Qsh08 dummy5 bias_df 0 QN
Qsh09 dummy5 bias_df 0 QN
Qsh10 dummy5 bias_df 0 QN
Qsh11 dummy5 bias_df 0 QN
Qsh12 dummy5 bias_df 0 QN
Qsh13 dummy5 bias_df 0 QN
Qsh14 dummy5 bias_df 0 QN
Qsh15 dummy5 bias_df 0 QN
Qsh16 dummy5 bias_df 0 QN
Qsh17 dummy5 bias_df 0 QN
Qsh18 dummy5 bias_df 0 QN
Qsh19 dummy5 bias_df 0 QN
Qsh20 dummy5 bias_df 0 QN
Rdumm5 vcc dummy5 0.75
Qsi01 dummy6 bias_df 0 QN
Qsi02 dummy6 bias_df 0 QN
Qsi03 dummy6 bias_df 0 QN
Qsi04 dummy6 bias_df 0 QN
Qsi05 dummy6 bias_df 0 QN
Qsi06 dummy6 bias_df 0 QN
Qsi07 dummy6 bias_df 0 QN
Qsi08 dummy6 bias_df 0 QN
Qsi09 dummy6 bias_df 0 QN
Qsi10 dummy6 bias_df 0 QN
Qsi11 dummy6 bias_df 0 QN
Qsi12 dummy6 bias_df 0 QN
Qsi13 dummy6 bias_df 0 QN
Qsi14 dummy6 bias_df 0 QN
Qsi15 dummy6 bias_df 0 QN
Qsi16 dummy6 bias_df 0 QN
Rdumm6 vcc dummy6 0.75
Qsj01 dummy7 bias_df 0 QN
Qsj02 dummy7 bias_df 0 QN
Qsj03 dummy7 bias_df 0 QN
Qsj04 dummy7 bias_df 0 QN
Qsj05 dummy7 bias_df 0 QN
Qsj06 dummy7 bias_df 0 QN
Qsj07 dummy7 bias_df 0 QN
Qsj08 dummy7 bias_df 0 QN
Qsj09 dummy7 bias_df 0 QN
Qsj10 dummy7 bias_df 0 QN
Qsj11 dummy7 bias_df 0 QN
Qsj12 dummy7 bias_df 0 QN
Rdumm7 vcc dummy7 0.75
Qsk01 dummy8 bias_df 0 QN
Qsk02 dummy8 bias_df 0 QN
Qsk03 dummy8 bias_df 0 QN
Qsk04 dummy8 bias_df 0 QN
Qsk05 dummy8 bias_df 0 QN
Qsk06 dummy8 bias_df 0 QN
Qsk07 dummy8 bias_df 0 QN
Qsk08 dummy8 bias_df 0 QN
Qsk09 dummy8 bias_df 0 QN
Qsk10 dummy8 bias_df 0 QN
Qsk11 dummy8 bias_df 0 QN
Qsk12 dummy8 bias_df 0 QN
Qsk13 dummy8 bias_df 0 QN
Qsk14 dummy8 bias_df 0 QN
Qsk15 dummy8 bias_df 0 QN
Qsk16 dummy8 bias_df 0 QN
Rdumm8 vcc dummy8 0.75






*==============================================================================
* REFERENCES
*==============================================================================
* Signal CM ~1.85 V raw -> EF ~1.1 V at emitter; use raw for base bias of IF
Rcm1 vcc cm_raw 2.5k
Rcm2 cm_raw 0 8.5k
Ccm cm_raw 0 2p
Qcm vcc cm_raw cm_buf QN
Rcmbe cm_buf cm_s 15

* Alternate CM ~2.05 V for controls
Rcm3 vcc cm2_raw 6.0k
Rcm4 cm2_raw 0 10k
Ccm2 cm2_raw 0 1p
Qcm2 vcc cm2_raw cm2_buf QN
Rcm2be cm2_buf cm2_s 15

* DC-cancel reference = 0.759 V (resistive, no EF drop)
Rvr1 vcc vref_in 31.8k
Rvr2 vref_in 0 10.1k
Cvr vref_in 0 5p

* TIA local-rail base drive ~3.15 V -> EF ~2.35 V
Rtr1 vcc trail_b 470
Rtr2 trail_b 0 12k
Ctrb trail_b 0 1p

*==============================================================================
* TIA LOCAL RAILS (NPN emitter-follower regulators)
*==============================================================================
Qrail_p vcc trail_b tia_rail_p QN
Rrail_p tia_rail_p 0 800
Crail_p tia_rail_p 0 4p
* light feedback sense (loads base slightly - loop via shared divider)
Rrfbp tia_rail_p trail_b 50k

Qrail_n vcc trail_b tia_rail_n QN
Rrail_n tia_rail_n 0 800
Crail_n tia_rail_n 0 4p
Rrfbn tia_rail_n trail_b 50k

*==============================================================================
* INPUT TIA HALVES
*==============================================================================
* Positive: CE + shunt feedback through EF
QTIA_ce_p tia_c_p inp tia_e_p QN
RTIA_e_p tia_e_p 0 2
RTIA_c_p tia_rail_p tia_c_p 450
QTIA_f_p tia_rail_p tia_c_p tia_p QN
RTIA_fs_p tia_p tia_fs_p 5
RTIA_fb_p tia_p inp 205
CTIA_pk_p tia_p inp 25f
CTIA_c_p tia_c_p 0 10f
* weak DC bleed to set Vin nearer 0.76 without killing signal (large R)
Rbleed_p inp 0 2.8k
Rbleed_n inn 0 2.8k


* Negative
QTIA_ce_n tia_c_n inn tia_e_n QN
RTIA_e_n tia_e_n 0 2
RTIA_c_n tia_rail_n tia_c_n 450
QTIA_f_n tia_rail_n tia_c_n tia_n QN
RTIA_fs_n tia_n tia_fs_n 5
RTIA_fb_n tia_n inn 205
CTIA_pk_n tia_n inn 25f
CTIA_c_n tia_c_n 0 10f

*==============================================================================
* DC-OVERLOAD CANCELLATION (slow integrators + MOS sinks)
*==============================================================================
Rdcc_sp inp dcc_sp 300k
Cdcc_sp dcc_sp 0 30p
Rdcc_sn inn dcc_sn 300k
Cdcc_sn dcc_sn 0 30p

* CMOS OTA: out high when sense > vref_in
* Positive
Mdccp_ip dccp_x dcc_sp dccp_t 0 NMOS W=30u L=1u
Mdccp_in dccp_y vref_in dccp_t 0 NMOS W=30u L=1u
Mdccp_cs dccp_t nbias 0 0 NMOS W=40u L=1u
Mdccp_lp dccp_x dccp_x vcc vcc PMOS W=60u L=1u
Mdccp_ln dccp_y dccp_x vcc vcc PMOS W=60u L=1u
* Buffer stage keeps drive near 0 when below threshold
Rdccp_f dccp_y dcc_p_gate 40k
Cdccp_f dcc_p_gate 0 50p
Rdccp_pd dcc_p_gate 0 80k
M_CANCEL_P inp dcc_p_gate 0 0 NMOS W=480u L=0.52u

* Negative
Mdccn_ip dccn_x dcc_sn dccn_t 0 NMOS W=30u L=1u
Mdccn_in dccn_y vref_in dccn_t 0 NMOS W=30u L=1u
Mdccn_cs dccn_t nbias 0 0 NMOS W=40u L=1u
Mdccn_lp dccn_x dccn_x vcc vcc PMOS W=60u L=1u
Mdccn_ln dccn_y dccn_x vcc vcc PMOS W=60u L=1u
Rdccn_f dccn_y dcc_n_gate 40k
Cdccn_f dcc_n_gate 0 50p
Rdccn_pd dcc_n_gate 0 80k
M_CANCEL_N inn dcc_n_gate 0 0 NMOS W=480u L=0.52u

*==============================================================================
* INTERFACE 1
*==============================================================================
Cif1p tia_p if1b_p 20p
Cif1n tia_n if1b_n 20p
Rif1p if1b_p cm_raw 8k
Rif1n if1b_n cm_raw 8k
Qif1p vcc if1b_p v1p QN
Qif1n vcc if1b_n v1n QN
Rif1ep v1p if1_s_p 5
Rif1en v1n if1_s_n 5

*==============================================================================
* VGA1 - degenerated pair + steering quad + EF
*==============================================================================
Qv1ip v1_cp v1p v1_ep QN
Qv1in v1_cn v1n v1_en QN
Rv1ee v1_ep v1_en 120
Cv1ee v1_ep v1_en 60f
Rv1e1 v1_ep vga1_tail 20
Rv1e2 v1_en vga1_tail 20

Qv1sp v1_sp vc1b v1_cp QN
Qv1dp v1_dump vc1  v1_cp QN
Qv1sn v1_sn vc1b v1_cn QN
Qv1dn v1_dump vc1  v1_cn QN
Rv1lp vcc v1_sp 118
Rv1ln vcc v1_sn 118
Rv1dump vcc v1_dump 50

Qv1fp vcc v1_sp vga1p QN
Qv1fn vcc v1_sn vga1n QN
Rv1fep vga1p vga1f_p 5
Rv1fen vga1n vga1f_n 5

*==============================================================================
* INTERFACE 2
*==============================================================================
Cif2p vga1p if2b_p 20p
Cif2n vga1n if2b_n 20p
Rif2p if2b_p cm_raw 8k
Rif2n if2b_n cm_raw 8k
Qif2p vcc if2b_p v2p QN
Qif2n vcc if2b_n v2n QN
Rif2ep v2p if2_s_p 5
Rif2en v2n if2_s_n 5

*==============================================================================
* VGA2 - with emitter peaking cap
*==============================================================================
Qv2ip v2_cp v2p v2_ep QN
Qv2in v2_cn v2n v2_en QN
Rv2ee v2_ep v2_en 100
Cv2ee v2_ep v2_en 190f
Rv2e1 v2_ep vga2_tail 16
Rv2e2 v2_en vga2_tail 16

Qv2sp v2_sp vc2b v2_cp QN
Qv2dp v2_dump vc2  v2_cp QN
Qv2sn v2_sn vc2b v2_cn QN
Qv2dn v2_dump vc2  v2_cn QN
Rv2lp vcc v2_sp 108
Rv2ln vcc v2_sn 108
Rv2dump vcc v2_dump 45

Qv2fp vcc v2_sp vga2p QN
Qv2fn vcc v2_sn vga2n QN
Rv2fep vga2p vga2f_p 5
Rv2fen vga2n vga2f_n 5

*==============================================================================
* INTERFACE 3 -> buffer inputs
*==============================================================================
Cif3p vga2p if3b_p 20p
Cif3n vga2n if3b_n 20p
Rif3p if3b_p cm_raw 8k
Rif3n if3b_n cm_raw 8k
Qif3p vcc if3b_p bufinp QN
Qif3n vcc if3b_n bufinn QN
Rif3ep bufinp if3_s_p 5
Rif3en bufinn if3_s_n 5

*==============================================================================
* OUTPUT BUFFER (collector outputs for CM~2.7V, EF sense optional)
*==============================================================================
Qbip outp bufinp b_ep QBUF
Qbin outn bufinn b_en QBUF
Rbee b_ep b_en 40
Rbe1 b_ep buf_tail 18
Rbe2 b_en buf_tail 18
* Collector loads set CM: VCC - Ic*RC ~= 2.706
Rblp vcc outp 170
Rbln vcc outn 170

* 100 ohm differential load
Rload outp outn 100

* EF monitors / low-Z assist (light) still on collectors via series R
Qbfp vcc outp bufof_pe QBUF
Qbfn vcc outn bufof_ne QBUF
Rbfep bufof_pe bufof_p 5
Rbfen bufof_ne bufof_n 5

* Passive output pole to finalp/finaln
Rp_p outp finalp 5
Rp_n outn finaln 5
Cp_p finalp 0 40f
Cp_n finaln 0 40f
Cp_d finalp finaln 18f

*==============================================================================
* GAIN-CONTROL GENERATOR (gc -> complementary steering pairs)
*==============================================================================
Qgc_b vcc gc gc_b QN
Rgcbe gc_b gc_s 10

* Gain-curve center reference ~1.325 V
Rgcr1 vcc gcr_raw 12.5k
Rgcr2 gcr_raw 0 7.8k
Cgcr gcr_raw 0 1p
Qgcr vcc gcr_raw gcr_b QN
Rgcrbe gcr_b gcr_s 10

* Steering base CM ~2.15 V
Rgcc1 vcc gccm_raw 5.5k
Rgcc2 gccm_raw 0 10.5k
Cgccm gccm_raw 0 1p
Qgccm vcc gccm_raw gccm_b QN
Rgccmbe gccm_b gccm_s 10

* VGA1 shallow slope pair
Qgc1p gc1_cp gc_b gc1_e QN
Qgc1n gc1_cn gcr_b gc1_e QN
Rgc1e gc1_e gc1_t 5500
Rgc1lp vcc gc1_cp 3.5k
Rgc1ln vcc gc1_cn 3.5k
Qgc1fp vcc gc1_cp vc1 QN
Qgc1fn vcc gc1_cn vc1b QN
Rgc1fe1 vc1 vc1_s 10
Rgc1fe2 vc1b vc1b_s 10
Rgc1cm1 vc1 gccm_b 2.7k
Rgc1cm2 vc1b gccm_b 2.7k

* VGA2 steeper slope pair
Qgc2p gc2_cp gc_b gc2_e QN
Qgc2n gc2_cn gcr_b gc2_e QN
Rgc2e gc2_e gc2_t 14
Rgc2lp vcc gc2_cp 5.0k
Rgc2ln vcc gc2_cn 5.0k
Qgc2fp vcc gc2_cp vc2 QN
Qgc2fn vcc gc2_cn vc2b QN
Rgc2fe1 vc2 vc2_s 10
Rgc2fe2 vc2b vc2b_s 10
Rgc2cm1 vc2 gccm_b 2.7k
Rgc2cm2 vc2b gccm_b 2.7k

*==============================================================================
* MODE SELECTOR: mc=0 -> gc=mgc ; else gc=agc
* MOSFET order: drain gate source bulk
*==============================================================================
Minv_n mc_b mc 0 0 NMOS W=20u L=0.5u
Minv_p mc_b mc vcc vcc PMOS W=40u L=0.5u

Mtg_mgc_n gc mc_b mgc 0 NMOS W=50u L=0.5u
Mtg_mgc_p gc mc mgc vcc PMOS W=100u L=0.5u

Mtg_agc_n gc mc agc 0 NMOS W=50u L=0.5u
Mtg_agc_p gc mc_b agc vcc PMOS W=100u L=0.5u

Cgc gc 0 0.5p
Rgc_hi gc 0 50G

*==============================================================================
* PEAK DETECTOR (8-BJT Gilbert) high-Z tap from final outputs
*==============================================================================
Rtap_p finalp pkdinp 4k
Rtap_n finaln pkdinn 4k
Ctap_p finalp pkdinp 10f
Ctap_n finaln pkdinn 10f
Rbp pkdinp cm_raw 20k
Rbn pkdinn cm_raw 20k

Qpkdfp vcc pkdinp pkd_fp QN
Qpkdfn vcc pkdinn pkd_fn QN
Rpkdfep pkd_fp pkdf_p 5
Rpkdfen pkd_fn pkdf_n 5

Qpkdip pkd_cp pkd_fp pkd_ep QN
Qpkdin pkd_cn pkd_fn pkd_en QN
Rpkdee pkd_ep pkd_en 100
Rpkde1 pkd_ep pkd_tail 40
Rpkde2 pkd_en pkd_tail 40

Qpkdq1 detp pkd_fp pkd_cp QN
Qpkdq2 detn pkd_fn pkd_cp QN
Qpkdq3 detn pkd_fp pkd_cn QN
Qpkdq4 detp pkd_fn pkd_cn QN
Rpkdlp vcc detp 2.2k
Rpkdln vcc detn 2.2k

Rpkdff1 detp pkd_fil_p 6k
Rpkdff2 detn pkd_fil_n 6k
Cpkdff1 pkd_fil_p 0 4p
Cpkdff2 pkd_fil_n 0 4p
Cpkdffd pkd_fil_p pkd_fil_n 2p
Rpkda pkd_fil_p pkd 3k
Rpkdb pkd_fil_n pkd 3k
Cpkda pkd 0 4p

*==============================================================================
* AGC PATH (two CMOS amplifiers)
*==============================================================================
Qagcfp vcc pkd_fil_p agc_fp QN
Qagcfn vcc pkd_fil_n agc_fn QN
Ragcfep agc_fp agcf_p 10
Ragcfen agc_fn agcf_n 10

Qoa vcc oa oa_b QN
Roabe oa_b oa_s 10
Road1 oa_b oa_th 5k
Road2 oa_th 0 8k
Coath oa_th 0 1p

* OTA1 error: detector vs threshold
Magc1ip agc1_x agc_fp agc1_t 0 NMOS W=50u L=0.8u
Magc1in agc1_y oa_th agc1_t 0 NMOS W=50u L=0.8u
Magc1cs agc1_t nbias 0 0 NMOS W=80u L=0.8u
Magc1lp agc1_x agc1_x vcc vcc PMOS W=100u L=0.8u
Magc1ln agc1_y agc1_x vcc vcc PMOS W=100u L=0.8u
Magc1g agc1_o agc1_y agc1_s 0 NMOS W=100u L=0.8u
Magc1gs agc1_s nbias 0 0 NMOS W=100u L=0.8u
Magc1gl agc1_o agc1_o vcc vcc PMOS W=50u L=0.8u
Ragc1z agc1_y agc1_z 6k
Cagc1c agc1_z agc1_o 6p

* OTA2 drives agc
Ragccm1 vcc agc_cm 8k
Ragccm2 agc_cm 0 7k
Cagccm agc_cm 0 1p

Magc2ip agc2_x agc1_o agc2_t 0 NMOS W=50u L=0.8u
Magc2in agc2_y agc_cm agc2_t 0 NMOS W=50u L=0.8u
Magc2cs agc2_t nbias 0 0 NMOS W=80u L=0.8u
Magc2lp agc2_x agc2_x vcc vcc PMOS W=100u L=0.8u
Magc2ln agc2_y agc2_x vcc vcc PMOS W=100u L=0.8u
Magc2g agc agc2_y agc2_s 0 NMOS W=120u L=0.8u
Magc2gs agc2_s nbias 0 0 NMOS W=120u L=0.8u
Magc2gl agc agc vcc vcc PMOS W=60u L=0.8u
Ragc2z agc2_y agc2_z 12k
Cagc2c agc2_z agc 12p
Cagch agc 0 10p
Ragcpu vcc agc 150k
Ragcpd agc 0 180k

*==============================================================================
* MODELS (grading cards)
*==============================================================================
.model NMOS NMOS(VTO=.55 KP=220u LAMBDA=.02)
.model PMOS PMOS(VTO=-.55 KP=100u LAMBDA=.02)
.model QN NPN(IS=1e-16 BF=200 VAF=100 IKF=50m RB=5 RC=1 RE=.2 CJE=2f CJC=1f TF=.45p TR=5p)
.model QP PNP(IS=1e-16 BF=100 VAF=60 IKF=20m RB=8 RC=1 RE=.3 CJE=3f CJC=1.5f TF=.7p TR=8p)
.model QBUF NPN(IS=1e-16 BF=200 VAF=100 IKF=100m RB=3 RC=.5 RE=.15 CJE=3f CJC=1.5f TF=.45p TR=5p)

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 5m
I_TB_N 0 inn DC 3.75m
.control
op
print v(inp) v(inn) v(finalp) v(finaln) @M_CANCEL_P[id] @M_CANCEL_N[id]
quit
.endc
.end
